US07498440B2
Preparation of 1-[2-(1-benzofuran-2-yl)-2-oxoethyl]-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide
1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.022 g, 0.075 mmol) was diluted in CHCl3 (1.8 mL) and dispensed directly into a 1 dram vial containing 1-(1-benzofuran-2-yl)-2-bromoethanone (0.027 g, 0.112 mmol). Added CH3CN (1.2 mL), the vial was fitted with stirring bar and capped. The reaction was stirred and heated at 60° C. for 24 h and then concentrated under vacuum to give a white solid. This residue was dissolved in DMSO and purified by preparatory HPLC (without TFA) to give the title compound (0.022 g, 57.4%). LC/MS ESI RT 1.98 min, M+ 452

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.075 mmol, 0.022 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 1-(1-benzofuran-2-yl)-2-bromoethanone | 0.112 mmol, 0.027 g | O1C(=CC2=C1C=CC=C2)C(CBr)=O | C10H7BrO2
reactant | CH3CN | 1.2 mL | CC#N | C2H3N
solvent | CHCl3 | 1.8 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DMSO | CS(=O)C | C2H6OS
product | 1-[2-(1-benzofuran-2-yl)-2-oxoethyl]-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.022 g, 57.4% | [Br-].O1C(=CC2=C1C=CC=C2)C(C[N+]21CCC(CC2)(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O | InChI=1S/C30H30NO3.BrH/c32-26(28-21-23-9-7-8-14-27(23)34-28)22-31-18-15-29(16-19-31,17-20-31)30(33,24-10-3-1-4-11-24)25-12-5-2-6-13-25;/h1-14,21,33H,15-20,22H2;1H/q+1;/p-1
